US04367238
A mixture of 6-(2-chlorophenoxy)-o-cresol (0.3 g), acetic acid (5 ml) and acetic anhydride (5 ml) was refluxed under heating for 7 hours. The reaction mixture was evaporated, and the oily residue was dissolved in diethyl ether, washed with an aqueous solution of sodium bicarbonate, dried over magnesium sulfate and then evaporated to give oily 2-chlorophenyl 2-acetoxy-3-methylphenyl ether (0.4 g).

reactant | 6-(2-chlorophenoxy)-o-cresol | 0.3 g | ClC1=C(OC=2C=CC=C(C2O)C)C=CC=C1 | C13H11ClO2
reactant | acetic anhydride | 5 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 2-chlorophenyl 2-acetoxy-3-methylphenyl ether | 0.4 g | C(C)(=O)OC1=C(C=CC=C1C)OC1=C(C=CC=C1)Cl | C15H13ClO3
